US09399623B2
6-Chloro-2-(2-methoxy-ethylamino)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide (68)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, and 2-Methoxy-ethylamine. 1H NMR (400 MHz, DMSO-d6): δ 8.70 (t, J=5.81 Hz, 1H), 7.59 (d, J=9.21 Hz, 1H), 7.45-7.50 (m, 2H), 7.32 (t, J=5.32 Hz, 1H), 6.88 (d, J=9.21 Hz, 1H), 3.55-3.54 (m, 2H), 3.51-3.52 (m, 2H), 3.28 (s, 3H), 3.22 (t, J=6.31 Hz, 2H), 2.01-2.03 (m, 2H), 1.73-1.85 (m, 5H), 1.22-1.31 (m, 2H). m/z: 412.0 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | 2-Methoxy-ethylamine | COCCN | C3H9NO
product | 6-Chloro-2-(2-methoxy-ethylamino)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)NCCOC)F | C20H24ClF2N3O2
